US04902694
A. Preparation of 3-bromothieno[3,2-c]pyridine
To a solution of 5.4 g of thieno[3,2-c]pyridine and 120 ml of 48% (w/w) hydrobromic acid was added a solution of 4.4 ml of bromine in 60 ml of 48% (w/w) hydrobromic acid. A solid precipitated out of solution and the resultant mixture was maintained at 105° C. for 6 hours in a sealed vessel after which it was allowed to cool to room temperature overnight. The mixture was then poured over ice layered with methylene chloride and the mixture was made basic (pH9) with ammonium hydroxide. The layers were separated and the aqueous layer was extracted two times with methylene chloride. The combined extracts were refrigerated overnight and then dried over magnesium sulfate to render a tan solid, a portion of which was taken up in 300 ml of diethyl ether. An insoluble material formed and was removed by filtration. The diethyl ether was concentrated to about 50 ml from which crystals of the desired subtitle intermediate formed and were collected.

reactant | thieno[3,2-c]pyridine | 5.4 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | hydrobromic acid | Br | BrH
reactant | bromine | 4.4 ml | BrBr | Br2
product | 3-bromothieno[3,2-c]pyridine | BrC1=CSC2=C1C=NC=C2 | C7H4BrNS
